US06689806B1
6-(2-Methoxyphenyl)-1,3-dihydroindol-2-one (239 mg, 1.0 mmol)was condensed with 4-(3-dimethylaminopropyl)-3,5-dimethyl-1H-pyrrole-2-carbaldehyde (208 mg, 1.0 mmol) using method B to give 333 mg (83%) of 3-[4-(3-dimethylaminopropyl)-3,5-dimethyl-1H-pyrrol-2-ylmethylene]-6-(2-methoxyphenyl)-1,3-dihydroindol-2-one as a yellow solid.

reactant | 6-(2-Methoxyphenyl)-1,3-dihydroindol-2-one | 1.0 mmol, 239 mg | COC1=C(C=CC=C1)C1=CC=C2CC(NC2=C1)=O | C15H13NO2
reactant | 4-(3-dimethylaminopropyl)-3,5-dimethyl-1H-pyrrole-2-carbaldehyde | 1.0 mmol, 208 mg | CN(CCCC=1C(=C(NC1C)C=O)C)C | C12H20N2O
product | 3-[4-(3-dimethylaminopropyl)-3,5-dimethyl-1H-pyrrol-2-ylmethylene]-6-(2-methoxyphenyl)-1,3-dihydroindol-2-one | 333 mg, 83% | CN(CCCC=1C(=C(NC1C)C=C1C(NC2=CC(=CC=C12)C1=C(C=CC=C1)OC)=O)C)C | C27H31N3O2
